US04622401
2-(3-Amino-4-methyl-2-pyrazolin-1-yl)-6-methylpyridine
A 0.51 g. amount of sodium metal is dissolved in 150 ml. of absolute ethanol, then 12.32 g. of 2-hydrazino-6-methylpyridine is added, followed by 6.7 g. of methacrylonitrile. The reaction mixture is refluxed on a steam bath for 16 hours then is evaporated in vacuo to an oil. Water is added to separate a solid. The solid is collected and recrystallized from ethyl acetate after treatment with activated charcoal to give 10.12 g. of the desired product as white crystals, m.p. 181°-185° C.

reactant | sodium | [Na] | Na
reactant | 2-hydrazino-6-methylpyridine | N(N)C1=NC(=CC=C1)C | C6H9N3
reactant | methacrylonitrile | C(C(=C)C)#N | C4H5N
solvent | ethanol | C(C)O | C2H6O
product | 2-(3-Amino-4-methyl-2-pyrazolin-1-yl)-6-methylpyridine | NC1=NN(CC1C)C1=NC(=CC=C1)C | C10H14N4
